US07285550B2
(b) 2-[4-(3,5-Dimethyl-isoxazol-4-ylmethyl)-piperazin-1-yl]-7-furan-2-yl-pyrazolo[1,5-a][1,3,5]triazin-4-ylamine
4-Chloromethyl-3,5-dimethyl-isoxazole (1.5 eq.) was directly added to a solution of 7-furan-2-yl-2-piperazin-1-yl-pyrazolo[1,5-a][1,3,5]triazin-4-ylamine (0.14 mmol) and Et3N (0.3 mmol) in 3 mL of CH3CN. The resulting reaction mixture was stirred at room temp for 18 hours. It was then concentrated and purified by preparative HPLC using a mixture of aqueous CH3CN that has been buffered with 0.1% TFA. 1H NMR (DMSO-d6) δ 7.60 (d, J=1.0 Hz, 1 H), 7.28 (br s, 2H), 7.22 (d, J=3.6 Hz, 1H), 6.68 (dd, J=3.6 Hz, 1.0 Hz, 1 H), 6.2 (s, 1H) 3.8 (br s, 2H), 2.2-3.2 (m, 8H), 1.6 (br s, 6H). MS: m/z: 395 [M+H]+.

reactant | 4-Chloromethyl-3,5-dimethyl-isoxazole | 1.5 eq. | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | 7-furan-2-yl-2-piperazin-1-yl-pyrazolo[1,5-a][1,3,5]triazin-4-ylamine | 0.14 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)N2CCNCC2)=C1 | C13H15N7O
reactant | Et3N | 0.3 mmol | CCN(CC)CC | C6H15N
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 2-[4-(3,5-Dimethyl-isoxazol-4-ylmethyl)-piperazin-1-yl]-7-furan-2-yl-pyrazolo[1,5-a][1,3,5]triazin-4-ylamine | CC1=NOC(=C1CN1CCN(CC1)C1=NC=2N(C(=N1)N)N=C(C2)C=2OC=CC2)C | C19H22N8O2
